US09024022B2
Compound 21: benzylguanine-N-Fmoc-piperidine
Weighed into a 50 ml round-bottomed flask were 48.1 mg (178 μmol) of 6-aminomethylbenzylguanine which was partially dissolved in 10 ml of anhydrous dimethylformamide. 62.5 mg (178 μmol) of 4-carboxy-N-Fmoc-piperidine and 57.1 mg (178 μmol) of TBTU were added. The reaction mixture was left stirring for two hours. The reaction was monitored by HPLC on a Merck Lichrospher RP °18, 5 μm, 125×4.6 column with a gradient of acetonitrile in water containing 0.2% of trifluoroacetic acid.

reactant | 6-aminomethylbenzylguanine | 178 μmol, 48.1 mg | NCC1=CC=CC=C1CNC=1NC(C=2NC=NC2N1)=O | C13H14N6O
reactant | 4-carboxy-N-Fmoc-piperidine | 178 μmol, 62.5 mg | C(=O)(O)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H21NO4
reactant | TBTU | 178 μmol, 57.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | benzylguanine N-Fmoc-piperidine | C(C1=CC=CC=C1)NC=1NC(C=2NC=NC2N1)=O.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCCCC1 | InChI=1S/C20H21NO2.C12H11N5O/c22-20(21-12-6-1-7-13-21)23-14-19-17-10-4-2-8-15(17)16-9-3-5-11-18(16)19;18-11-9-10(15-7-14-9)16-12(17-11)13-6-8-4-2-1-3-5-8/h2-5,8-11,19H,1,6-7,12-14H2;1-5,7H,6H2,(H3,13,14,15,16,17,18)
